** Samlet PD **
V§error V_err GND PULSE(4.5 2.5 5s 1000ms 1000ms 4s 10s)

* 5 V and 6 V supply
V5 U5 GND 5
V6 U6 GND 6.5

* Spændingsdeler
R2 GND U3_2 100K
R1 U3_2 U5 100K
XSplit U3_2 U3_1 U5 GND U3_1 LM358

* Proportional
XP1 U3_1 U2_3 U6 GND P_out LM358
R_P2 P_out U2_3 110k
R_P1 U2_3 V_err 220k

* Differential
XD1 U3_1 C1_2 U6 GND D_out LM358
R_D D_out C1_2 500k
R_CD V_err C1_3 470
C_D C1_3 C1_2 1U

* Summering
XS1 U3_1 U4_3 U6 GND Vout LM358
R_St U4_3 Vout 100K
R_SP P_out U4_3 100K
R_SD D_out U4_3 100K

.lib LTC.lib
.tran 20s
.inc opamp.sub
.inc LM358.cir
.backanno
.end
